US04673746
A solution of sodium ethoxide, prepared from 0.50 g of sodium and 15 ml of absolute ethanol is added to a stirred suspension of 6.0 g of {[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetonitrile and 1.4 g of hydroxylamine hydrochloride in 60 ml of absolute ethanol. The reaction mixture is refluxed for 30 min, poured into water and the precipitate is collected and dried. The precipitate is dissolved in warm methanol and treated with ethereal hydrogen chloride to give N-hydroxy-{[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetimidamide, mp 218° C. (dec.).

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.50 g | [Na] | Na
reactant | {[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetonitrile | 6.0 g | ClC1=C(C=CC=2C(=NOC21)C2=C(C=CC=C2)F)OCC#N | C15H8ClFN2O2
reactant | hydroxylamine hydrochloride | 1.4 g | Cl.NO
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | N-hydroxy-{[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetimidamide | ONC(COC1=C(C2=C(C(=NO2)C2=C(C=CC=C2)F)C=C1)Cl)=N | C15H11ClFN3O3
